US06436929B1
A mixture of 3-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-benzonitrile (1 g, 3.6 mmol) and Lawesson's reagent (1.8 g, 4.3 mmol) in o-xylene (30 mL) was heated at reflux overnight. The reaction mixture was cooled to room temperature, poured into ethyl acetate (50 mL) and washed with 1 N HCl (2×20 mL). The organic layer was dried over sodium sulfate and concentrated. The residue was purified via flash chromatography (silica gel, 20% ethyl acetate/hexane) to give 3-(4,4-dimethyl-2-thioxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-benzonitrile (0.21 g, 20%) as a white solid: mp 236-237° C.; 1H-NMR (DMSO-d6) δ12.3 (s, 1H), 8.24 (s, 1H), 8.05 (d, 1H, J=8.07 Hz), 7.82 (d, 1H, J=7.68 Hz), 7.74-7.64 (m, 3H), 7.14 (d 1H, J=8.78 Hz), 1.71 (s, 6H); MS (APCI) m/z 295 ([M +H]+, 100%); Anal. Calc. For C17H14N2OS: C, 69.36; H, 4.79; N, 9.52. Found: C, 68.35; H, 4.91; N, 9.07

reactant | 3-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-benzonitrile | 3.6 mmol, 1 g | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(C#N)C=CC2)C | C17H14N2O2
reactant | Lawesson's reagent | 4.3 mmol, 1.8 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | o-xylene | 30 mL | CC=1C=CC=CC1C | C8H10
product | 3-(4,4-dimethyl-2-thioxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-benzonitrile | 0.21 g, 20% | CC1(C2=C(NC(O1)=S)C=CC(=C2)C=2C=C(C#N)C=CC2)C | C17H14N2OS
